US06069156
To a stirred solution of 6-amino-1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole (100 mg) in chloroform (2 ml) was added methylisocyanate (0.5 ml) at 0° C. The reaction mixture was stirred at 20° C. for 1 hour, then evaporated. The residue was chromatographed on silica gel eluting with a mixture of ethyl acetate and hexane (1:1) to give crystals which were recrystallized from a mixture of ethyl acetate and hexane to give 1-(2-chlorobenzyl)-3-isobutyryl-6-(3-methylureido)-2-propylindole (75 mg) as colorless crystals.

reactant | 6-amino-1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole | 100 mg | NC1=CC=C2C(=C(N(C2=C1)CC1=C(C=CC=C1)Cl)CCC)C(C(C)C)=O | C22H25ClN2O
reactant | methylisocyanate | 0.5 ml | CN=C=O | C2H3NO
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-chlorobenzyl)-3-isobutyryl-6-(3-methylureido)-2-propylindole | 75 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)NC(=O)NC)C(C(C)C)=O)CCC)C=CC=C1 | C24H28ClN3O2
